US08461189B2
4-Carbomethoxyaminomethyl benzoic acid
To suspension of the 4-aminomethylbenzoic acid (10 g, 66.2 mmol) in 1,4-dioxane (100 mL) were added methyl chloroformate (5.4 mL, 69.5 mmol) and dimethyl acetamide (3.4 mL). The reaction mixture was then heated to 65° C. overnight. Reaction mixture was evaporated to dryness and the residue was triturated with water. The solids were filtered and dried to give pure product as white solid. 1H NMR (600 MHz, DMSO) δ 12.84 (bs, 1H), 7.85 (d, J=7.8 Hz, 2H), 7.73 (t, J=6 Hz, 1H), 7.32 (d, J=7.8 Hz, 2H), 4.20 (bd, J=6 Hz, 2H), 3.52 (s, 3H); MS: (MH+), (MH+).

reactant | 4-aminomethylbenzoic acid | 66.2 mmol, 10 g | NCC1=CC=C(C(=O)O)C=C1 | C8H9NO2
reactant | methyl chloroformate | 69.5 mmol, 5.4 mL | ClC(=O)OC | C2H3ClO2
reactant | dimethyl acetamide | 3.4 mL | CC(=O)N(C)C | C4H9NO
solvent | 1,4-dioxane | 100 mL | O1CCOCC1 | C4H8O2
product | 4-Carbomethoxyaminomethyl benzoic acid | C(=O)(OC)NCC1=CC=C(C(=O)O)C=C1 | C10H11NO4
